US07153878B2
3-[4-(1-{4-Isopropyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazol-5-yl}-ethoxy)-2-methyl-phenyl]-propionic acid methyl ester
To a solution of 3-(4-{1-[2-(4-bromo-phenyl)-4-isopropyl-oxazol-5-yl]-ethoxy}-2-methyl-phenyl)-propionic acid methyl ester (2.50 g, 5.14 mmol) in DMSO (50 mL) is added bis(pinacolato)diboron (1.88 g, 7.40 mmol) and KOAc (1.94 g, 19.8 mmol). The suspension is bubbled with nitrogen gas for 10 minutes and then is treated with Pd(dppf)Cl2 (100 mg) The mixture is then stirred and heated at 85° C. for 4 hours. The reaction is quenched water and extracted with EtOAc (50 mL×3) and the combined organics are dried (Na2SO4), concentrated and purified on silica gel chromatography column with 10–20% EtOAc/Hexanes to yield the title compound as yellow oil (1.68 g, 61%).

reactant | 3-(4-{1-[2-(4-bromo-phenyl)-4-isopropyl-oxazol-5-yl]-ethoxy}-2-methyl-phenyl)-propionic acid methyl ester | 5.14 mmol, 2.50 g | COC(CCC1=C(C=C(C=C1)OC(C)C1=C(N=C(O1)C1=CC=C(C=C1)Br)C(C)C)C)=O | C25H28BrNO4
reactant | bis(pinacolato)diboron | 7.40 mmol, 1.88 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 19.8 mmol, 1.94 g | CC(=O)[O-].[K+]
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 3-[4-(1-{4-Isopropyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazol-5-yl}-ethoxy)-2-methyl-phenyl]-propionic acid methyl ester | 1.68 g, 61% | COC(CCC1=C(C=C(C=C1)OC(C)C1=C(N=C(O1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(C)C)C)=O | C31H40BNO6
